US05589476
2.1.5. 4-Methyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one
3.3 g (0.02 mol) of 3-methyl-3,4-dihydro-1H-1,4-benzoxazin-5-amine are heated at 160°-165° C. in an oil bath for 1.5 hours in the presence of 1.7 g (0.028 mol) of urea. A solid is obtained which is taken up in a water/ether (50/50) mixture. The phases are separated, the organic phase is recovered, is washed, is dried and the solvent evaporated to dryness. The residue obtained is purified by chromatography on a column of silica gel, the eluent being ethyl ether. 2 g of product are obtained.

reactant | 3-methyl-3,4-dihydro-1H-1,4-benzoxazin-5-amine | 0.02 mol, 3.3 g | CC1COC=2C(N1)=C(C=CC2)N | C9H12N2O
reactant | urea | 0.028 mol, 1.7 g | NC(=O)N | CH4N2O
solvent | ether hexane | CCOCC.CCCCCC
product | 4-Methyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 2 g | CC1COC2=C3N1C(NC3=CC=C2)=O | C10H10N2O2
